US06855710B2
b) 4-(pyrimidin-2-ylaminomethyl)-aniline
Prepared analogously to Example 55 by catalytic hydrogenation of 4-(pyrimidin-2-ylaminomethyl)-nitrobenzene with Raney nickel.

reactant | 4-(pyrimidin-2-ylaminomethyl)-nitrobenzene | N1=C(N=CC=C1)NCC1=CC=C(C=C1)[N+](=O)[O-] | C11H10N4O2
catalyst | Raney nickel | [Ni] | Ni
product | 4-(pyrimidin-2-ylaminomethyl)-aniline | N1=C(N=CC=C1)NCC1=CC=C(N)C=C1 | C11H12N4
